US07288541B2
To a solution of 370 mg (1.12 mmol) of tert-butyl (2S)-2-hydroxy-3-[(2-pyridinylsulfonyl)amino]propylcarbamate & tert-butyl (2R)-2-hydroxy-3-[(2-pyridinylsulfonyl)amino]propylcarbamate in 3.3 mL of anhydrous dioxane, 20 mL of a 4 N solution of hydrogen chloride in dioxane was added. The resulting solution was stirred for 60 min, during which time a white precipitate formed. The mixture was concentrated under reduced pressure and the resulting solid was dried under vacuum. A 54 mg (0.18mmol) sample of the residue was then added to a solution of 90 mg (0.2 mmol) of (1S)-1-[(5,6-dichloro-1H-benzimidazol-1-yl)methyl]-2,2-dimethylpropyl 4-nitrophenyl carbonate in 2 mL of dimethylformamide. Addition of 0.22 mL (1.12 mmol) of diisopropylethylamine resulted in a light yellow solution, which was stirred for 1 d under nitrogen, and then concentrated. The residue was then partition between ethyl acetate and a saturated aqueous sodium bicarbonate solution. The layers were separated and the organic phase was dried over anhydrous magnesium sulfate and concentrated. The residue was purified by silica gel chromatography eluting with a methanol:chloroform solution (1:9) to afford 44 mg (45%) of (1S)-1-[(5,6-dichloro-1H-benzimidazol-1-yl)methyl]-2,2-dimethylpropyl (2S)-2-hydroxy-3-[(2-pyridinylsulfonyl)amino]propylcarbamate & (1s)-1-[(5,6-dichloro-1H-benzimidazol-1-yl)methyl]-2,2-dimethylpropyl (2R)-2-hydroxy-3-[(2-pyridinylsulfonyl)amino]propylcarbamate. ES-LCMS m/z 544 (M+H) retention time=3.60 min.

reactant | tert-butyl (2S)-2-hydroxy-3-[(2-pyridinylsulfonyl)amino]propylcarbamate | 1.12 mmol, 370 mg | O[C@@H](CNC(OC(C)(C)C)=O)CNS(=O)(=O)C1=NC=CC=C1 | C13H21N3O5S
reactant | tert-butyl (2R)-2-hydroxy-3-[(2-pyridinylsulfonyl)amino]propylcarbamate | O[C@H](CNC(OC(C)(C)C)=O)CNS(=O)(=O)C1=NC=CC=C1 | C13H21N3O5S
reactant | hydrogen chloride | Cl | ClH
reactant | (1S)-1-[(5,6-dichloro-1H-benzimidazol-1-yl)methyl]-2,2-dimethylpropyl 4-nitrophenyl carbonate | 0.2 mmol, 90 mg | C(O[C@@H](C(C)(C)C)CN1C=NC2=C1C=C(C(=C2)Cl)Cl)(OC2=CC=C(C=C2)[N+](=O)[O-])=O | C20H19Cl2N3O5
reactant | diisopropylethylamine | 1.12 mmol, 0.22 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dioxane | 3.3 mL | O1CCOCC1 | C4H8O2
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | (1S)-1-[(5,6-dichloro-1H-benzimidazol-1-yl)methyl]-2,2-dimethylpropyl (2S)-2-hydroxy-3-[(2-pyridinylsulfonyl)amino]propylcarbamate | 44 mg, 45% | O[C@@H](CNC(O[C@@H](C(C)(C)C)CN1C=NC2=C1C=C(C(=C2)Cl)Cl)=O)CNS(=O)(=O)C2=NC=CC=C2 | C22H27Cl2N5O5S
